US06602889B1
1-(4-Fluorophenyl)-5-tetrazol-5-yl-1H-indole (8a)
A suspension of 5-cyano-1-(4-fluorophenyl)-1H-indole (20 g) (prepared according to the method in Perregaard et al. J. Med. Chem. 1992 (35), 1092-1101), triethylamine hydrochloride (35 g) and sodium azide (20 g) in DME (250 mL) was boiled at reflux for 16 hours. Inorganic salts were filtered off and the solvent evaporated in vacuo. The remaining solid material was dissolved in ethyl acetate (500 mL) and water (500 mL) and glacial acetic acid was added. The organic phase was worked-up according to the general procedure above yielding 19 g of crystalline title compound 8a, mp 224-225° C. (washed with diethyl ether).

reactant | 5-cyano-1-(4-fluorophenyl)-1H-indole | 20 g | C(#N)C=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)F | C15H9FN2
reactant | triethylamine hydrochloride | 35 g | Cl.C(C)N(CC)CC
reactant | sodium azide | 20 g | [N-]=[N+]=[N-].[Na+]
solvent | DME | 250 mL | COCCOC | C4H10O2
product | 1-(4-Fluorophenyl)-5-tetrazol-5-yl-1H-indole | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)C1=NN=NN1 | C15H10FN5
